US06323235B1
3-(2-(2-oxo-2-phenylethoxy)ethyl)-7-hydroxybenzofuran
3-(2-(2,2-ethylenedioxy-2-phenylethoxy)ethyl)-7-hydroxybenzofuran (185 mg) was dissolved in THF (3 ml). To this solution, one drop of concentrated hydrochloric acid was added and the solution was stirred at 50° C. for 29 hours, followed by refluxing the solution for 3 hours. The reaction solution was poured into water layer (30 ml) and extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=2/1) using silica gel to obtain the desired compound (111 mg, yield: 69%).

reactant | 3-(2-(2,2-ethylenedioxy-2-phenylethoxy)ethyl)-7-hydroxybenzofuran | 185 mg | C1OC(COCCC2=COC3=C2C=CC=C3O)(C3=CC=CC=C3)OC1 | C20H20O5
reactant | water | 30 ml | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | hydrochloric acid | one drop | Cl | ClH
product | 3-(2-(2-oxo-2-phenylethoxy)ethyl)-7-hydroxybenzofuran | 111 mg, yield: 69% | O=C(COCCC1=COC2=C1C=CC=C2O)C2=CC=CC=C2 | C18H16O4
